US07253286B2
tert-Butyl 4-(((4-(3-chloro-4-((cyclopropylamino)carbonyl)aminophenoxy)-6-cyano-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate
The title compound (275.8 mg, 0.466 mmol, 14.6%) was obtained as white crystals from an N-(4-(6-cyano-7-hydroxy-4-quinolyl)oxy-2-chlorophenyl)-N′-cyclopropylurea crude product (1.00 g, 3.20 mmol) and tert-butyl 4-(bromomethyl)-1-piperidinecarboxylate, by the same procedure as in Example 7.

reactant | N-(4-(6-cyano-7-hydroxy-4-quinolyl)oxy-2-chlorophenyl)-N′-cyclopropylurea | C(#N)C=1C=C2C(=CC=NC2=CC1O)OC1=CC(=C(C=C1)NC(=O)NC1CC1)Cl | C20H15ClN4O3
reactant | tert-butyl 4-(bromomethyl)-1-piperidinecarboxylate | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
product | tert-Butyl 4-(((4-(3-chloro-4-((cyclopropylamino)carbonyl)aminophenoxy)-6-cyano-7-quinolyl)oxy)methyl)-1-piperidinecarboxylate | 0.466 mmol, 275.8 mg, 14.6% | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1NC(=O)NC1CC1 | C31H34ClN5O5
